US08865713B2
Step C: 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid.
To a mixture of 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (1.92 g, 4.13 mmol), THF (16 mL), and water (5 mL) was added LiOH.H2O (0.693 g, 16.5 mmol). The mixture was stirred for 18 h at 23° C. The solvent was evaporated, water (10 mL) was added and the mixture acidified with 1M HCl. The resulting precipitate was filtered and dried to yield the titled compound (1.73 g, 94%). MS (ESI/CI): mass calcd. for C17H10Cl2N4O4S, 436.0; m/z found, 437.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 8.89 (s, 1H), 8.40 (s, 1H), 8.25 (s, 1H), 7.93-7.90 (m, 2H), 7.69-7.66 (m, 3H).

reactant | 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 4.13 mmol, 1.92 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C19H14Cl2N4O4S
reactant | THF | 16 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 16.5 mmol, 0.693 g | O[Li].O
solvent | water | 5 mL | O | H2O
product | 1-[6-chloro-5-(4-chloro-benzenesulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid | 1.73 g, 94% | ClC=1C(=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C17H10Cl2N4O4S
